US04755511
6-Acetamido-1-oxo-1,2,3,4-tetrahydro-2-naphthyl trimethylammonium iodide (4.25 g) in methanol (30 ml )/water (40 ml ) was added to a stirred solution of potassium cyanide (1.62 g) in water (40 ml ). After 3 hours the precipitate which had formed was collected and dried to give 6-acetamido-2-cyanomethyl-1-tetralone (1.7 g; m.p. 189°-90°) ν(Nujol mull) 3350-3100, 2220, 1670, 1590cm-1 ; m+ 242.

reactant | 6-Acetamido-1-oxo-1,2,3,4-tetrahydro-2-naphthyl trimethylammonium iodide | 4.25 g | [I-].C(C)(=O)NC=1C=C2CCC(C(C2=CC1)=O)[N+](C)(C)C
reactant | potassium cyanide | 1.62 g | [C-]#N.[K+]
reactant | methanol | 30 ml | CO | CH4O
solvent | water | 40 ml | O | H2O
solvent | water | 40 ml | O | H2O
product | 6-acetamido-2-cyanomethyl-1-tetralone | 1.7 g | C(C)(=O)NC=1C=C2CCC(C(C2=CC1)=O)CC#N | C14H14N2O2
